US07335658B2
6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Pentylamide
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid pentylamide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (31% yield). m.p. 162-164° C. 1H NMR (300 MHz, CDCl3) δ 8.05, 7.87, 7.24, 7.07, 6.99, 4.08-3.99, 3.90-3.66, 3.45, 3.35, 1.65-1.55, 1.37-1.30. 13C NMR (75 MHz, CDCl3) δ 166.1, 162.9, 160.0, 145.7, 129.7, 127.2, 116.9, 116.6, 115.0, 114.7, 112.6, 77.2, 46.4, 44.6, 44.4, 41.3, 39.4, 29.3, 29.1, 22.4, 14.0.

reactant | 6-chloropyridazine-3-carboxylic acid pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)Cl | C10H14ClN3O
reactant | piperazin-1-yl-(5-fluoro-2-trifluoromethylphenyl)methanone | N1(CCNCC1)C(=O)C1=C(C=CC(=C1)F)C(F)(F)F | C12H12F4N2O
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID Pentylamide | C(CCCC)NC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)F)C(F)(F)F)=O | C22H25F4N5O2
